US06864287B1
Methyl 6-(4-(methoxycarbonyl)phenoxy]-8-[2-(4-phenylbutoxy)-phenyl]octanoate
Over a period of 2 h, a solution of 100.0 mg (0.24 mmol) of methyl 6-hydroxy-8-{2-[(5-phenylpentyl)oxy]phenyl}octanoate from Ex. XXXIa and 63.32 mg (0.36 mmol) of DEAD in 2.5 ml of THF was added dropwise to a solution of 55.32 mg (0.36 mmol) of methyl 4-hydroxybenzoate and 95.36 mg (0.36 mmol) of triphenylphosphine in 2.5 ml of THF. The mixture was stirred at RT for 18 h, 40 ml of diethyl ether were added, the mixture was filtered and the solvent was removed. The product was purified chromatographically (silica gel, cyclohexane/EA 10:1). This gave 63.0 mg (47.5%) of a colorless oil.

reactant | methyl 6-hydroxy-8-{2-[(5-phenylpentyl)oxy]phenyl}octanoate | 0.24 mmol, 100.0 mg | OC(CCCCC(=O)OC)CCC1=C(C=CC=C1)OCCCCCC1=CC=CC=C1 | C26H36O4
reactant | DEAD | 0.36 mmol, 63.32 mg | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | methyl 4-hydroxybenzoate | 0.36 mmol, 55.32 mg | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | triphenylphosphine | 0.36 mmol, 95.36 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 2.5 ml | C1CCOC1 | C4H8O
solvent | THF | 2.5 ml | C1CCOC1 | C4H8O
solvent | diethyl ether | 40 ml | C(C)OCC | C4H10O
product | Methyl 6-(4-(methoxycarbonyl)phenoxy]-8-[2-(4-phenylbutoxy)-phenyl]octanoate | COC(=O)C1=CC=C(OC(CCCCC(=O)OC)CCC2=C(C=CC=C2)OCCCCC2=CC=CC=C2)C=C1 | C33H40O6
